US09315458B2
Alias; 1,5-anhydro-2,4-dideoxy-2-(4-fluoro-5-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol
A mixture of methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-formyl-4-methylbenzoate (0.21 g), (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (0.07 g), anhydrous magnesium sulfate (0.14 g) and THF (4.00 mL) was stirred at room temperature for 6 hr under nitrogen atmosphere. The insoluble substance was removed by filtration, and the filtrate was concentrated. The residue was dissolved in a mixed solvent of methanol (4.00 mL)-THF (4.00 mL), sodium triacetoxyborohydride (0.25 g) was added thereto, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.11 g).

reactant | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-formyl-4-methylbenzoate | 0.21 g | N1(N=CC=C1)C1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)F)C)C=C1 | C20H17FN2O3
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 0.07 g | N[C@H]1COCC[C@@H]1O | C5H11NO2
reactant | magnesium sulfate | 0.14 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 4.00 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2,4-dideoxy-2-(4-fluoro-5-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol | 0.11 g | FC1=C2CN(C(C2=CC(=C1C)CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1COCC[C@@H]1O | C24H24FN3O3
